US08486946B2
Step 3: Preparation of ethyl 4-oxo-1-[4-(1H-pyrazol-1-yl)benzyl]-1,4-dihydrocinnoline-3-carboxylate
Ethyl 3-(2-fluorophenyl)-2-hydrazono-3-oxopropanoate (1.16 g, 4.87 mmol) and 1-[4-(bromomethyl)phenyl]-1H-pyrazole (1.50 g, 6.33 mmol, 1.3 equiv) were dissolved in degassed N,N-dimethylformamide (15 mL), cooled to 0° C. and treated with sodium hydride (0.312 g, 7.79 mmol, 1.6 equiv). After stirring for 1 hour at 0° C., the mixture was treated with ammonium chloride (3 mL, saturated aqueous) and water (40 mL) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 20:80; hexanes:ethyl acetate) to provide the titled compound.

reactant | Ethyl 3-(2-fluorophenyl)-2-hydrazono-3-oxopropanoate | 4.87 mmol, 1.16 g | FC1=C(C=CC=C1)C(C(C(=O)OCC)=NN)=O | C11H11FN2O3
reactant | 1-[4-(bromomethyl)phenyl]-1H-pyrazole | 6.33 mmol, 1.50 g, 1.3 equiv | BrCC1=CC=C(C=C1)N1N=CC=C1 | C10H9BrN2
reactant | sodium hydride | 7.79 mmol, 0.312 g, 1.6 equiv | [H-].[Na+]
reactant | ammonium chloride | 3 mL | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | ethyl 4-oxo-1-[4-(1H-pyrazol-1-yl)benzyl]-1,4-dihydrocinnoline-3-carboxylate | O=C1C(=NN(C2=CC=CC=C12)CC1=CC=C(C=C1)N1N=CC=C1)C(=O)OCC | C21H18N4O3
